US05576340
2-{2-[4-(2-Methoxycarbonylethyl)phenoxy]-1-methylethyl}amino-1-phenylethanol (Compound No. 3-5)
2.2 g of 2-{2-[4-(2-methoxycarbonylethenyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 53) were dissolved in 200 ml of methanol and hydrogenated by bubbling hydrogen through the solution at atmospheric pressure and at room temperature in the presence of 0.5 g of 10% w/w palladium-on-charcoal for 3 hours. The catalyst was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. The concentrate was dissolved in ethyl acetate, and the resulting solution was washed with an aqueous solution of potassium carbonate and with water, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent. The product thus obtained was recrystallized from a mixture of ethyl acetate and hexane, to give 1.2 g of the title compound as crystals, melting at 103°-104° C.

reactant | 2-{2-[4-(2-methoxycarbonylethenyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol | 2.2 g | COC(=O)C=CC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C21H24ClNO4
solvent | methanol | 200 ml | CO | CH4O
product | 2-{2-[4-(2-Methoxycarbonylethyl)phenoxy]-1-methylethyl}amino-1-phenylethanol | 1.2 g | COC(=O)CCC1=CC=C(OCC(C)NCC(O)C2=CC=CC=C2)C=C1 | C21H27NO4
